US04255182
Preparation of 2-amino-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole
2-Acetamido-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole (0.1 mole), and concentrated hydrochloric acid (500 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer and reflux condenser. The mixture is refluxed for a period of about 2 hours, it is then cooled to room temperature, filtered and solvent removed from the filtrate by use of a rotary evaporator. The solid residue is washed with, 10% aqueous sodium carbonate, air dried and then crystallized from isopropanol to yield the desired product 2-amino-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole.

reactant | 2-Acetamido-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole | 0.1 mole | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)NC(CC)CC | C9H16N4O3S2
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 2-amino-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole | NC=1SC(=NN1)S(=O)(=O)NC(CC)CC | C7H14N4O2S2
